US06869949B2
2. 7,8-Dihydroxy-2,3-dimethyl-9-(3-thienyl)-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine
50 mg of 8-hydroxy-2,3-dimethyl-9-(3-thienyl)-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one are suspended in 5 ml of methanol and treated with 100 mg of sodium borohydride at room temperature with vigorous stirring. After stirring at room temperature for 1 hour, the solvent is stripped off in vacuo, the residue is covered with a layer of 5 ml of water, the mixture is adjusted to pH 1 with a few drops of semisaturated aqueous hydrochloric acid and then adjusted to pH 8 using saturated aqueous sodium hydrogen carbonate solution, extracted three times with 20 ml of methylene chloride each time, the combined organic phases are concentrated to dryness in vacuo and the remaining solid residue is purified on silica gel (eluent: methylene chloride/methanol=13/1). 45 mg of the title compound of m.p. 134-38° C. are obtained.

reactant | 8-hydroxy-2,3-dimethyl-9-(3-thienyl)-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one | 50 mg | OC1C(NC=2C=3N(C=CC2C1=O)C(=C(N3)C)C)C3=CSC=C3 | C16H15N3O2S
reactant | sodium borohydride | 100 mg | [BH4-].[Na+]
reactant | water | 5 ml | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 5 ml | CO | CH4O
catalyst | hydrochloric acid | a few drops | Cl | ClH
product | 7,8-Dihydroxy-2,3-dimethyl-9-(3-thienyl)-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | 45 mg | OC1C(C(NC=2C=3N(C=CC12)C(=C(N3)C)C)C3=CSC=C3)O | C16H17N3O2S
